data/rdb19/train.csv
rxn,smiles,ea
1735,[C:15]([C:16]([O:17][C:18](=[O:19])[C:20](=[C:21]([H:28])[H:29])[H:27])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[C:16]([C:15]([H:22])([H:23])[H:24])([H:25])[H:26])([H:11])[H:12])([H:8])([H:9])[H:10].[O:17][C:18](=[O:19])[C:20](=[C:21]([H:28])[H:29])[H:27],54.51581276359502
3115,[C:16]([C:17]([C:18]([H:19])[N:20]([C:21](=[O:22])[H:29])[H:28])([H:26])[H:27])([H:23])([H:24])[H:25].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:16]([C:17](=[C:18]([H:19])[N:20]([C:21](=[O:22])[H:29])[H:28])[H:27])([H:23])([H:24])[H:25].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:9])[H:10].[H:8][H:26],51.22169734555064
1613,[C:15]([O:16][C:17](=[O:18])[C:19](=[C:20]([H:25])[H:26])[C:21]([H:27])([H:28])[H:29])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2](=[C:3]([H:4])[H:5])[C:6](=[O:7])[N:8]([H:13])[H:14])([H:9])([H:10])[H:11].[H:12][C:20]([C:19]([C:17]([O:16][C:15]([H:22])([H:23])[H:24])=[O:18])[C:21]([H:27])([H:28])[H:29])([H:25])[H:26],25.04919621377485
4342,[C:16]([C:17]([C:18]([H:19])[H:20])([O:21][C:22](=[O:23])[C:24]([H:29])([H:30])[H:31])[H:28])([H:25])([H:26])[H:27].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:16]([C:17](=[C:18]([H:19])[H:20])[O:21][C:22](=[O:23])[C:24]([H:29])([H:30])[H:31])([H:25])([H:26])[H:27].[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:11])[H:12])([C:7]([H:13])([H:14])[H:15])[H:28])([H:8])([H:9])[H:10],36.821664759889245
5444,[C:19]([C:20]([C:21]([H:22])([H:23])[H:31])[O:24][C:25](=[O:26])[C:27]([H:32])([H:33])[H:34])([H:28])([H:29])[H:30].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:19]([C:20](=[C:21]([H:22])[H:23])[O:24][C:25](=[O:26])[C:27]([H:32])([H:33])[H:34])([H:28])([H:29])[H:30].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([N:5][C:6](=[O:7])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[H:17][H:31],59.58325820253231
4127,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])([H:12])[H:13])([H:9])([H:10])[H:11].[C:20](=[C:21]([c:22]1[c:23]([H:31])[c:24]([H:32])[c:25]([H:33])[c:26]([H:34])[c:27]1[H:35])[H:30])([H:28])[H:29]>>[C:1]([C:2](=[C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])[H:12])([H:9])([H:10])[H:11].[H:13][C:21]([C:20]([H:28])[H:29])([c:22]1[c:23]([H:31])[c:24]([H:32])[c:25]([H:33])[c:26]([H:34])[c:27]1[H:35])[H:30],37.72655500646215
4169,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])=[C:5]([O:6])[O:7][C:8]([H:17])([H:18])[H:19])([H:12])[H:13])([H:9])([H:10])[H:11].[C:20](=[C:21]([N+:22](=[C:23]([O-:24])[H:29])[H:28])[H:27])([H:25])[H:26]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])=[C:5]([O:6][H:28])[O:7][C:8]([H:17])([H:18])[H:19])[H:12])([H:9])([H:10])[H:11].[H:13][O:24][C:23](=[N:22][C:21](=[C:20]([H:25])[H:26])[H:27])[H:29],30.616550514590926
3753,[C:17]([C:18]([C:19]([C:20]([H:30])([H:31])[H:32])([N:21]([C:22](=[O:23])[H:34])[H:33])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:17]([C:18]([C:19]([N:21]([C:22](=[O:23])[H:34])[H:33])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([H:4])([C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[C:20]([H:30])([H:31])[H:32])([H:10])[H:11])([H:7])([H:8])[H:9],55.76964644039981
793,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]=[O:6])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[N:7]([H:17])([H:18])[C:21]([C:20]([C:19]([H:27])([H:28])[H:29])([H:30])[H:31])([C:22]([H:32])([H:33])[H:34])[C:23](=[O:24])[O:25][C:26]([H:35])([H:36])[H:37]>>[C:19]([C:20]([H:30])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N+:7]([H:17])([H:18])[C-:21]([C:22]([H:32])([H:33])[H:34])[C:23](=[O:24])[O:25][C:26]([H:35])([H:36])[H:37])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],64.52229433762841
3779,[C:17](=[C:18]([N:19]([C:20](=[O:21])[H:26])[H:25])[H:24])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9].[H:11][C:17]([C:18]([N:19]([C:20](=[O:21])[H:26])[H:25])[H:24])([H:22])[H:23],33.66113699867856
